US04000144
A solution of 19.5 g of 4-(2-hydroxy-2-adamantyl)-phenyl-benzyl ether in 200 ml of glacial acetic acid is hydrogenated with 2 g of palladium on charcoal at about 25° C, under normal pressure, until 2 equivalents of hydrogen have been taken up. The catalyst is then filtered off and the filtrate is evaporated to dryness in vacuo. Crystallisation of the evaporation residue from ether/petroleum ether gives 4-(2-adamantyl)-phenol of melting point 180°-181° C.

reactant | 4-(2-hydroxy-2-adamantyl)-phenyl-benzyl ether | 19.5 g | OC1(C2CC3CC(CC1C3)C2)C2=CC=C(C=C2)C(C2=CC=CC=C2)OC(C2=CC=CC=C2)C2=CC=C(C=C2)C2(C3CC1CC(CC2C1)C3)O | C46H50O3
reactant | hydrogen | 2 equivalents | [H][H] | H2
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | 4-(2-adamantyl)-phenol | C12C(C3CC(CC(C1)C3)C2)C2=CC=C(C=C2)O | C16H20O
